US06632819B1
Compound 1ao, 4,7-dimethoxy-6-azaindole.
Compound 5ap, {circle around (R)}N-(benzoyl)-3-methyl-N′-[(4,7-dimethoxy-6-azaindol-3-yl)-oxoacetyl]piperazine (white solid) was prepared using the same method used to prepare compound 5a except that Potassium (4,7-dimethoxy-6-azaindol-3-yl)-oxoacetate was used as the starting material. MS m/z: (M+H)+ calcd for C23H25N4O5: 437.18; found 437.24. HPLC retention time: 1.37 minutes (column B).

reactant | N-(benzoyl)-3-methyl-N′-[(4,7-dimethoxy-6-azaindol-3-yl)-oxoacetyl]piperazine | C(C1=CC=CC=C1)(=O)N1CC(N(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)OC)=O)C | C23H24N4O5
reactant | Potassium (4,7-dimethoxy-6-azaindol-3-yl)-oxoacetate | COC1=C2C(=CNC2=C(N=C1)OC)C(C(=O)[O-])=O.[K+]
product | 4,7-dimethoxy-6-azaindole | COC1=C2C=CNC2=C(N=C1)OC | C9H10N2O2
